US04816065
To a stirred solution of 20 mL of water in 200 mL of glacial acetic acid was added 6.0 g (0.014 mole) of 1-[4-chloro-2-fluoro-5-(4-nitrophenoxy)phenyl]-3,4,5,6-tetrahydrophthalimide. This mixture was stirred at room temperature while 6.0 g (0.11 mole) of iron filings were slowly added. After complete addition the mixture was stirred at room temperature for one hour. Diethyl ether was added and the resultant mixture was filtered through a pad of celite. The filtrate was washed with 200 mL of water. The organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure leaving a solid. This solid was purified by column chromatography on silica gel, eluting with methylene chloride, to yield 4.0 g of 1-[5-(4-aminophenoxy)-4-chloro-2-fluorophenyl]-3,4,5,6-tetrahydrophthalimide as a solid, m.p. 213°-215° C.

reactant | water | 20 mL | O | H2O
reactant | 1-[4-chloro-2-fluoro-5-(4-nitrophenoxy)phenyl]-3,4,5,6-tetrahydrophthalimide | 0.014 mole, 6.0 g | ClC1=CC(=C(C=C1OC1=CC=C(C=C1)[N+](=O)[O-])C12C(=O)NC(C1CCCC2)=O)F | C20H16ClFN2O5
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.11 mole, 6.0 g | [Fe] | Fe
product | 1-[5-(4-aminophenoxy)-4-chloro-2-fluorophenyl]-3,4,5,6-tetrahydrophthalimide | 4.0 g | NC1=CC=C(OC=2C(=CC(=C(C2)C23C(=O)NC(C2CCCC3)=O)F)Cl)C=C1 | C20H18ClFN2O3
